US08217065B2
2-(2,6-Dichloro-phenyl)-6-[5-(6-trifluoromethyl-pyridin-3-yl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazole
6-Trifluoromethyl-nicotinoyl chloride (119 uL, 0.817 mmol) was added to a solution of 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (250 mg, 0.778 mmol) in THF (10 mL) and EDIPA (149 uL, 0.856 mmol). The reaction was stirred for 17 hr. The reaction was diluted with EtOAc (75 mL) and extracted with water (20 mL). The organic phase was dried over Na2SO4 and concentrated. The concentrate was taken up in DMF (3 mL) and transferred to a microwave vial charged with Burgess reagent (555 mg, 2.33 mmol). The reaction was heated to 150° C. for 15 min by microwave irradiation. The reaction was diluted with EtOAc (75 mL) and extracted with water (15 mL). The organic phase was dried over Na2SO4 and concentrated. The concentrate was purified by silica gel column chromatography (15-40% ACN/DCM) and the resulting colorless film triturated with MeOH/DCM to afford the title compound (214 mg): 1H NMR (400 MHz, DMSO-d6) ppm 7.64-7.68 (m, 1 H) 7.71 (s, 1 H) 7.73 (d, J=2.02 Hz, 1 H) 7.83 (tautomer, d, J=8.46 Hz, 1 H) 7.97 (tautomer, d, J=8.59 Hz, 1 H) 8.12 (dd, J=14.15, 8.72 Hz, 1 H) 8.21 (d, J=8.34 Hz, 1 H) 8.41 (tautomer, s, 1 H) 8.60 (tautomer, s, 1 H) 8.85 (d, J=8.34 Hz, 1 H) 9.54 (s, 1 H) 13.41 (d, J=14.15 Hz, 1H); LCMS tR=1.53 min, MS (m/z) 476.7.

reactant | 6-Trifluoromethyl-nicotinoyl chloride | 0.817 mmol, 119 uL | FC(C1=NC=C(C(=O)Cl)C=C1)(F)F | C7H3ClF3NO
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.778 mmol, 250 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | EDIPA | 0.856 mmol, 149 uL | CCOP(N(C(C)C)C(C)C)O | C8H20NO2P
reactant | Burgess reagent | 2.33 mmol, 555 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 2-(2,6-Dichloro-phenyl)-6-[5-(6-trifluoromethyl-pyridin-3-yl)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazole | 214 mg | ClC1=C(C(=CC=C1)Cl)C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)C=2C=NC(=CC2)C(F)(F)F | C21H10Cl2F3N5O
